US09353082B2
b) N-cyclohexyl-4-(4-methoxy-3-(methylsulfonamido)phenyl)-N-methyl-1H-imidazole-1-carboxamide
Mesyl chloride (0.247 mL, 3.17 mmol) was added to a stirred solution of 4-(3-amino-4-methoxyphenyl)-N-cyclohexyl-N-methyl-1H-imidazole-1-carboxamide (1.04 g, 3.17 mmol) and triethylamine (0.441 mL, 3.17 mmol) in tetrahydrofuran (6 mL) at room temperature. The brown mixture was allowed to stir at room temperature over the weekend. Water was added and the solvent was evaporated. Then the aqueous layer was acidified and the residue was extracted with ethyl acetate. The aqueous layer was extracted twice with a mixture of dichloromethane/isopropanol (7:3). The organic layer was separated, dried (MgSO4) filtered and evaporated to give an off-white solid. The solid was recrystallised from an ethanol/dichloromethane mixture to give the product as an off-white solid (434 mg, 34%).

reactant | Mesyl chloride | 3.17 mmol, 0.247 mL | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 4-(3-amino-4-methoxyphenyl)-N-cyclohexyl-N-methyl-1H-imidazole-1-carboxamide | 3.17 mmol, 1.04 g | NC=1C=C(C=CC1OC)C=1N=CN(C1)C(=O)N(C)C1CCCCC1 | C18H24N4O2
reactant | triethylamine | 3.17 mmol, 0.441 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | N-cyclohexyl-4-(4-methoxy-3-(methylsulfonamido)phenyl)-N-methyl-1H-imidazole-1-carboxamide | 434 mg, 34% | C1(CCCCC1)N(C(=O)N1C=NC(=C1)C1=CC(=C(C=C1)OC)NS(=O)(=O)C)C | C19H26N4O4S
